US05102890
Ethyl 3-(2,6-dimethylpiperidino)propionate hydrochloride may be obtained by working according to the method described in Example 6 for the preparation of ethyl 3- diisopropylaminopropionate, but starting with ethyl 3bromopropionate (18.1 g), 2,6-dimethylpiperidine (27 cc) and ethanol (30 cc). The reaction mixture is concentrated to dryness under reduced pressure (2.7 kPa) and the residue obtained is taken up with water (50 cc) and 4N aqueous hydrochloric acid solution (30 cc). The aqueous phase is washed with ethyl ether (2×80 cc) and neutralized with 4N aqueous sodium hydroxide solution (40 cc). The insoluble oil is extracted with ethyl ether (3×120 cc); the organic extracts are then washed with water (2×80 cc) and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. The residue is dissolved in ethyl ether (100 cc). A 4.5N solution (13.4 cc) of gaseous hydrochloric acid in ethyl ether is added to the solution obtained. A product precipitates. It is separated by filtration, washed and dried in the air. Ethyl 3-(2,6-dimetylpiperidino)-propionate hydrochloride (14.4 g), m.p. 146° C., is thereby obtained.

reactant | ethyl 3- diisopropylaminopropionate | C(C)(C)N(CCC(=O)OCC)C(C)C | C11H23NO2
reactant | ethyl 3bromopropionate | 18.1 g | BrCCC(=O)OCC | C5H9BrO2
reactant | 2,6-dimethylpiperidine | 27 cc | CC1NC(CCC1)C | C7H15N
reactant | hydrochloric acid | 4N, 30 cc | Cl | ClH
solvent | water | 50 cc | O | H2O
solvent | ethanol | 30 cc | C(C)O | C2H6O
product | Ethyl 3-(2,6-dimetylpiperidino)-propionate hydrochloride | 14.4 g | Cl.CC1N(C(CCC1)C)CCC(=O)OCC | InChI=1S/C12H23NO2.ClH/c1-4-15-12(14)8-9-13-10(2)6-5-7-11(13)3;/h10-11H,4-9H2,1-3H3;1H
